US04471116
4-Benzyloxyphenol and 1,6-dibromohexane were reacted using conditions reported in Example 15. The reaction time was 4 days and the extraction solvent used was toluene. The crude product was crystallized from hexane to give 1-benzyloxy-4-(6-bromohexyloxy)benzene, mp 72°-3°.

reactant | 4-Benzyloxyphenol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-benzyloxy-4-(6-bromohexyloxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCCCCBr | C19H23BrO2
